US07618985B2
A solution of NaOH (92 mg) in water H2O (1 ml) was added to a solution of dimethylthiocarbamic acid S-(1-benzoylaminoisoquinolin-6-yl)ester (70 mg) in MeOH (1 ml) and THF (1 ml). The mixture was stirred for 1 h at ambient temperature then for a further 1 h at 56° C. The organics were removed in vacuo then the mixture was diluted with water and acidified with dilute hydrochloric acid (pH ˜3.5). The mixture was extracted with ethyl acetate (X3), dried (sodium sulphate) and concentrated in vacuo to give a residue. Flash chromatography of the residue (eluent: 1-5% ethyl acetate in heptane) gave N-(6-mercaptoisoquinolin-1-yl)-benzamide as a yellow residue (30 mg).

reactant | NaOH | 92 mg | [OH-].[Na+]
reactant | dimethylthiocarbamic acid S-(1-benzoylaminoisoquinolin-6-yl)ester | 70 mg | C(C1=CC=CC=C1)(=O)NC1=NC=CC2=CC(=CC=C12)SC(N(C)C)=O | C19H17N3O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water H2O | 1 ml | O.O | 2H2O
solvent | MeOH | 1 ml | CO | CH4O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | N-(6-mercaptoisoquinolin-1-yl)-benzamide | SC=1C=C2C=CN=C(C2=CC1)NC(C1=CC=CC=C1)=O | C16H12N2OS
